US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [3-(3-methoxy-pyrrolidine-1-carbonyl)-1-methyl-1H-pyrazol-4-yl]-amide
According to the general method described in step 5 of example 27, reaction of 3-methoxypyrrolidine with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (23%) as amorphous yellow solid.

reactant | 3-methoxypyrrolidine | COC1CNCC1 | C5H11NO
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid [3-(3-methoxy-pyrrolidine-1-carbonyl)-1-methyl-1H-pyrazol-4-yl]-amide | 23% | COC1CN(CC1)C(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C23H26N8O3
